US07737149B2
A solution of (E)-methyl 3-[3-(methylcarbamoyl)phenyl]prop-2-enoate (3.77 g, 17.20 mmol) and 10% palladium on carbon (0.458 g, 0.43 mmol) in a mixture of ethanol (100 mL) and DMF (10.00 mL) was stirred at room temperature for 18 h under a balloon of hydrogen. The reaction mixture was filtered through celite and evaporated to dryness to afford methyl 3-(3-(methylcarbamoyl)phenyl)propanoate (3.05 g, 80%) as a white solid. MS: m/z 222 (MH+).

reactant | (E)-methyl 3-[3-(methylcarbamoyl)phenyl]prop-2-enoate | 17.20 mmol, 3.77 g | CNC(=O)C=1C=C(C=CC1)/C=C/C(=O)OC | C12H13NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.43 mmol, 0.458 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | DMF | 10.00 mL | CN(C)C=O | C3H7NO
product | methyl 3-(3-(methylcarbamoyl)phenyl)propanoate | 3.05 g, 80% | CNC(=O)C=1C=C(C=CC1)CCC(=O)OC | C12H15NO3
